US08975415B2
To a solution of ethyl 1-(hydroxymethyl)cyclobutanecarboxylate (1.0 g, 6.3 mmol) and N,N-diethylethanamine (1.5 g, 8.2 mmol) in CH2Cl2 (30 ml) was added methanesulfonyl chloride (869 mg, 7.6 mmol). The mixture was stirred for 6 hours at ambient temperature. After dilution with CHCl3 and H2O, the organic layer was washed with H2O, dried over MgSO4, and concentrated in vacuo to give ethyl 1-{[(methylsulfonyl)oxy]methyl}cyclobutanecarboxylate (1.2 g).

reactant | ethyl 1-(hydroxymethyl)cyclobutanecarboxylate | 6.3 mmol, 1.0 g | OCC1(CCC1)C(=O)OCC | C8H14O3
reactant | N,N-diethylethanamine | 8.2 mmol, 1.5 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 7.6 mmol, 869 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | ethyl 1-{[(methylsulfonyl)oxy]methyl}cyclobutanecarboxylate | 1.2 g | CS(=O)(=O)OCC1(CCC1)C(=O)OCC | C9H16O5S
